US07612075B2
(6′-methoxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-yl)-methanol (300 mg, 1.35 mmol) is dissolved in methylene chloride (10 mL). carbon tetrabromide (561 mg, 1.69 mmol) is added and dissolved. The solution is cooled to 0° C. and triphenylphoshine (529 mg, 2.02 mmol) is added portionwise. The reaction is allowed to come to r.t. and is stirred for 30 min. The volume is then reduced under vacuum to ˜2 ml and purified by flash chromatography on silica gel using 2% methanol/methylene chloride as the eluent to provide 4-bromomethyl-6′-methoxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl. 1H NMR (300 MHz, CD3OD) δ 7.74 (d, 1H), 7.43 (dd, 1H), 6.72 (d, 1H), 3.83 (s, 3H), 3.54 (m, 2H), 3.38 (d, 2H), 2.65 (dt, 2H), 1.94 (m, 2H), 1.75 (m, 1H), 1.44 (m, 2H); MS (EI) 284 (M)+.

reactant | (6′-methoxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-yl)-methanol | 1.35 mmol, 300 mg | COC1=CC=C(C=N1)N1CCC(CC1)CO | C12H18N2O2
reactant | carbon tetrabromide | 1.69 mmol, 561 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphoshine | 2.02 mmol, 529 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-bromomethyl-6′-methoxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl | BrCC1CCN(CC1)C=1C=NC(=CC1)OC | C12H17BrN2O
